US05750754
Methyl 4-[2-[4-(4-pyridyl)piperazin-2-one-1-yl]acetyl]phenoxyacetate
A dispersion of potassium hydride in mineral oil (35% w/w, 0.63 g) was added to a stirred suspension of 4-(4-pyridyl)piperazin-2-one (0.885 g) in DMF (10 ml) and the mixture was stirr-ed at room temperature for 2 hours. To the anion thus formed, was added methyl 4-bromoacetylphenoxyacetate (1.44 g) and the mixture was stirred at room temperature for 20 hours. Solvent was evaporated and the residue partitioned between dichloromethane (20 ml) and water (20 ml). The organic layer was dried (MgSO4) and evaporated. The residue was purified by flash column chromatography, the product being eluted with 1/9/0.1 v:v:v methanol/dichloromethane/0.88 S.G aqueous ammonia. Recrystallisation from ethyl acetate gave the title compound, m.p. 164°-165° C.; NMR (d6DMSO) δ 8.2(2H,d), 7.97(2H,d), 7.08(2H,d), 6.83(2H,d), 4.93(4H,d), 4.02(2H,s), 3.71(3H,s), 3.7(2H,m), 3.52(2H,m); m/e 384 (M+H)+ ; calculated for C20H21N3O5 : C, 62.7; H, 5.52; N, 11.0. Found: C, 62.6; H, 5.6; N, 10.9%.

reactant | potassium hydride | [H-].[K+]
reactant | 4-(4-pyridyl)piperazin-2-one | 0.885 g | N1=CC=C(C=C1)N1CC(NCC1)=O | C9H11N3O
reactant | methyl 4-bromoacetylphenoxyacetate | 1.44 g | BrCC(=O)C1=CC=C(OCC(=O)OC)C=C1 | C11H11BrO4
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | Methyl 4-[2-[4-(4-pyridyl)piperazin-2-one-1-yl]acetyl]phenoxyacetate | N1=CC=C(C=C1)N1CC(N(CC1)CC(=O)C1=CC=C(OCC(=O)OC)C=C1)=O | C20H21N3O5
